US09108966B2
A mixture of (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-carbamothioylpiperidine-1-carboxylate (1.65 g, 3 mmol) and 1,1-dimethoxy-N,N-dimethylmethanamine (1.08 g, 9.0 mmol) in dry dioxane (20 mL) was stirred at 45° C. overnight. The reaction mixture was concentrated under vacuum and the residue was purified by silica gel column chromatography (1:1 petroleum ether/EtOAc) to give (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-((E)-(dimethylamino)methylenecarbamothioyl)piperidine-1-carboxylate (1.3 g, 72%) as a yellow solid. ESI-MS (EI+, m/z): 606 [M+H]+.

reactant | (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-carbamothioylpiperidine-1-carboxylate | 3 mmol, 1.65 g | C(C1=CC=CC=C1)ON(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@@H]1CC[C@H](N(C1)C(=O)OC(C)(C)C)C(N)=S | C24H30N4O7S2
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 9.0 mmol, 1.08 g | COC(N(C)C)OC | C5H13NO2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-((E)-(dimethylamino)methylenecarbamothioyl)piperidine-1-carboxylate | 1.3 g, 72% | C(C1=CC=CC=C1)ON(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@@H]1CC[C@H](N(C1)C(=O)OC(C)(C)C)C(/N=C/N(C)C)=S | C27H35N5O7S2
